US06562828B1
7-[1-(3-Methoxycarbonylpyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid tert-Butyl Ester
To a soution of 7-[1-(3-formylpyridin-4-yl)piperidin4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester (50 mg) in a mixture of chloroform (0.5 ml) and methanol (0.2 ml) were added sodium cyanide (8 mg), manganese dioxide (250 mg) and acetic acid (0.003 ml), and the mixture was stirred at room temperature for 12 hours. After completion of the reaction, the reaction mixture was filtrated and the solvent was evaporated. The obtained residue was purified by preparative thin layer chromatography (chloroform:methanol=15:1) and dried under reduced pressure to give the title compound (50 mg).

reactant | 7-[1-(3-formylpyridin-4-yl)piperidin4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester | 50 mg | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)C1=C(C=NC=C1)C=O | C26H33N3O4
reactant | sodium cyanide | 8 mg | [C-]#N.[Na+]
reactant | acetic acid | 0.003 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 0.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.2 ml | CO | CH4O
catalyst | manganese dioxide | 250 mg | [O-2].[O-2].[Mn+4]
product | 7-[1-(3-Methoxycarbonylpyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid tert-Butyl Ester | 50 mg | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)C1=C(C=NC=C1)C(=O)OC | C27H35N3O5
